US08629166B2
c) 5-Cyclohex-1-enyl-N-ethyl-N-isopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)nicotinic acid (15 mg, 49.8 μmol) was dissolved in DMF (5 mL) to give a light yellow solution. 3-Amino-pyridine (5.15 mg, 54.8 mmol), TBTU (24.0 mg, 74.7 μmol) and N,N-diisopropylethylamine (32.2 mg, 43.5 μA, 249 μmol) was successively added under stirring and argon to give a light brown solution. The reaction mixture was stirred for 18 h; poured into 5 mL 1N NaOH/ice water and extracted with i-propyl acetate (2×20 mL). The organic layers were combined, washed with brine (1×10 mL), dried with Na2SO4 and concentrated in vacuo to give a brown oil. The crude material was purified by preparative TLC (silica gel, 1.0 mm, n-heptane/i-propyl acetate 1:1) to give the title compound as side product (5 mg, 27%) in form of a colorless oil; LC-MS (UV peak area/ESI) 94%, 371.1936 (M+H)+.

reactant | 5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)nicotinic acid | 49.8 μmol, 15 mg | C1(=CCCCC1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H14F3NO3
reactant | 3-Amino-pyridine | 54.8 mmol, 5.15 mg | NC=1C=NC=CC1 | C5H6N2
reactant | TBTU | 74.7 μmol, 24.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 249 μmol, 32.2 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Cyclohex-1-enyl-N-ethyl-N-isopropyl-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | C1(=CCCCC1)C=1C(=NC=C(C(=O)N(C(C)C)CC)C1)OCC(F)(F)F | C19H25F3N2O2
